US07115607B2
N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}piperazinyl)-2-oxoethyl][(3-aminopropyl)amino]carboxamide
Following the procedure of Example 51, N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}piperazinyl)-2-oxoethyl][(3-aminopropyl)amino]carboxamide, TFA salt was prepared from triphosgene (Avocado Chemical Company) (45 mg, 0.152 mmol), (2R)-2-amino-3-(4-chlorophenyl)-1-(4-{2-[(methylsulfonyl)amino]phenyl}piperazinyl)propan-1-one TFA salt (200 mg, 0.36 mmol), DIEA (0.32 mL, 0.916 mmol), and tert-butyl-N-(3-aminopropyl)carbamate (Aldrich Chemical Company) (96 mg, 0.55 mmol). The Boc protecting group was removed by treating the compound with a soln of 50% TFA and CH2Cl2 (2 mL) for 2 h. The organic solvent was removed in vacuo to give the desired product. Preparative TLC purification with 60% Hexane, 35% CH2Cl2 and 5% 2N NH3 in MeOH afforded 90% pure compound. This was further purified by preparative HPLC (TFA buffer) to afford the title compound (TFA salt) as a white solid (10 mg). MS (ESI, pos. ion) m/z: 537 (M+H); MS (ESI, neg. ion) m/z: 535 (M−H). Calc'd for C24H33ClN6O4S: 536.20.

reactant | triphosgene | 0.152 mmol, 45 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (2R)-2-amino-3-(4-chlorophenyl)-1-(4-{2-[(methylsulfonyl)amino]phenyl}piperazinyl)propan-1-one TFA salt | 0.36 mmol, 200 mg | OC(=O)C(F)(F)F.N[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)CC1=CC=C(C=C1)Cl
reactant | DIEA | 0.916 mmol, 0.32 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl-N-(3-aminopropyl)carbamate | 0.55 mmol, 96 mg | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
product | N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}piperazinyl)-2-oxoethyl][(3-aminopropyl)amino]carboxamide | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)NCCCN | C24H33ClN6O4S
